US05962462
1'-(3-(S)-(4-Chlorophenyl)-4-(N-(3,5-bistrifluoromethylbenzoyl)-(methylamino))butyl)-spiro(2,3-dihydrobenzothiophene-3,4'-piperidine).
The title compound was prepared as in Example 21 from 4-bromo-2-(S)-(4-chlorophenyl)-1-(N-(3,5-bistrifluoromethylbenzoyl)-methylamino)butane and spiro(2,3-dihydrobenzothiophene-3,4'-piperidine) hydrochloride except that 3 eq. of diisopropylethylamine were used.

reactant | 4-bromo-2-(S)-(4-chlorophenyl)-1-(N-(3,5-bistrifluoromethylbenzoyl)-methylamino)butane | BrCC[C@H](CN(C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C)C1=CC=C(C=C1)Cl | C20H17BrClF6NO
reactant | spiro(2,3-dihydrobenzothiophene-3,4'-piperidine) hydrochloride | Cl.N1CCC2(CC1)CSC1=C2C=CC=C1
reactant | diisopropylethylamine | 3 eq. | C(C)(C)N(CC)C(C)C | C8H19N
product | 1'-(3-(S)-(4-Chlorophenyl)-4-(N-(3,5-bistrifluoromethylbenzoyl)-(methylamino))butyl)-spiro(2,3-dihydrobenzothiophene-3,4'-piperidine) | ClC1=CC=C(C=C1)[C@H](CCN1CCC2(CC1)CSC1=C2C=CC=C1)CN(C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C | C32H31ClF6N2OS
